US06706886B2
e) Preparation of 3-(3-bromo-2-methyl-6-methylsulfonylphenyl)-4,5-dihydro-isoxazole
At 60° C., a small amount of N-chlorosuccinimide is added to a solution of 50 g (171 mmol) of 3-bromo-2-methyl-6-methylsulfonylbenzaldoxime in 200 ml of dimethylformamide. Once the reaction has started, a total of 23.3 g (171 mmol) of N-chlorosuccinimide are metered in at 40-50° C. The reaction mixture is stirred for another 30 minutes, until conversion is complete according to HPLC. The reaction mixture is then poured onto ice-water and the solid is filtered off with suction, washed three times with water and twice with n-pentane. The hydroxamic acid chloride is used moist and without further purification for the next reaction. The solid is dissolved in 250 ml of dichloromethane, and ethylene is passed through the solution. With continued introduction of ethylene, 20.3 q (200 mmol) of triethylamine are added dropwise. The reaction mixture is stirred at room temperature for about 72 hours, with repeated introduction of more gaseous ethylene.

reactant | N-chlorosuccinimide | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | 3-bromo-2-methyl-6-methylsulfonylbenzaldoxime | 171 mmol, 50 g | BrC=1C(=C(C=NO)C(=CC1)S(=O)(=O)C)C | C9H10BrNO3S
reactant | N-chlorosuccinimide | 171 mmol, 23.3 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | ethylene | C=C | C2H4
reactant | triethylamine | 200 mmol | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
product | 3-(3-bromo-2-methyl-6-methylsulfonylphenyl)-4,5-dihydro-isoxazole | BrC=1C(=C(C(=CC1)S(=O)(=O)C)C1=NOCC1)C | C11H12BrNO3S
